US07074819B2
Step 1) Synthesis of 4-{4-[4-(t-butoxycarbonylmethyloxy)phenyl]-1-butyl}-7-methoxymethyloxy-3-(4-methoxymethyloxyphenyl)-3-methylchroman
To a solution of 4-[4-(4-hydroxyphenyl)-1-butyl]-7-methoxymethyloxy-3-(4-methoxymethyloxyphenyl)-3-methylchroman (481 mg, 0.976 mmol) in dry tetrahydrofuran (8 ml) was added sodium hydride (22.7 mg, 1.418 mmol) at room temperature and stirred for 20 minutes. Bromoacetic acid tert-butylester (276.7 mg, 1.418 mmol) was added thereto at the same temperature and stirred for 20 minutes. After the reaction was completed, water was added to the reaction solution, and the resulting solution was extracted with ethyl acetate. The organic layer was washed with water and saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give 589 mg (yield: quant.) of the title compound as a colorless oil. The resulting compound was used in the next reaction without purification.

reactant | 4-[4-(4-hydroxyphenyl)-1-butyl]-7-methoxymethyloxy-3-(4-methoxymethyloxyphenyl)-3-methylchroman | 0.976 mmol, 481 mg | OC1=CC=C(C=C1)CCCCC1C(COC2=CC(=CC=C12)OCOC)(C)C1=CC=C(C=C1)OCOC | C30H36O6
reactant | sodium hydride | 1.418 mmol, 22.7 mg | [H-].[Na+]
reactant | Bromoacetic acid tert-butylester | 1.418 mmol, 276.7 mg | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
reactant | water | O | H2O
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | 4-{4-[4-(t-butoxycarbonylmethyloxy)phenyl]-1-butyl}-7-methoxymethyloxy-3-(4-methoxymethyloxyphenyl)-3-methylchroman | 589 mg, yield: quant. | C(C)(C)(C)OC(=O)COC1=CC=C(C=C1)CCCCC1C(COC2=CC(=CC=C12)OCOC)(C)C1=CC=C(C=C1)OCOC | C36H46O8
